US08193378B2
To a solution of copper chloride (10 mg) and Pd(PPh3)4 (60 mg) in DMF (2 mL) were added [(4-isobutylphenyl)ethynyl](trimethyl)silane (288 mg) and 5-fluoro-3-formyl-2H-chromen-7-yl trifluoromethanesulfonate (340 mg) at room temperature, followed by stirring at 80° C. for 12 hours. The reaction liquid was concentrated and the residue was purified by silica gel column chromatography (CHCl3) to obtain 5-fluoro-7-[(4-isobutylphenyl)ethynyl]-2H-chromene-3-carbaldehyde (83 mg) as a yellow solid.

reactant | [(4-isobutylphenyl)ethynyl](trimethyl)silane | 288 mg | C(C(C)C)C1=CC=C(C=C1)C#C[Si](C)(C)C | C15H22Si
reactant | 5-fluoro-3-formyl-2H-chromen-7-yl trifluoromethanesulfonate | 340 mg | FC(S(=O)(=O)OC1=CC(=C2C=C(COC2=C1)C=O)F)(F)F | C11H6F4O5S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | copper chloride | 10 mg | [Cu](Cl)Cl
catalyst | Pd(PPh3)4 | 60 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-fluoro-7-[(4-isobutylphenyl)ethynyl]-2H-chromene-3-carbaldehyde | 83 mg | FC1=C2C=C(COC2=CC(=C1)C#CC1=CC=C(C=C1)CC(C)C)C=O | C22H19FO2
